* C:\Users\malte\Desktop\Piezo_Project\Ausarbeitung\sims\piezo_inout.asc
XX1 TxRx 0 N002 N003 piezoelement params: L=0.5m S=1e-4
XX3 N003 N004 substfin params: L=10m S=1e-4 d=1K V=1.5K Nv=1m F=5Meg
XX4 N004 substinf params: S=1e-4 d=7.9K V=5.17K
XX2 N002 substinf params: S=1e-4 d=7.9K V=5.17K
V1 Tx 0 SINE(0 10 4.3Meg) AC 100
R1 N001 Tx 100
D1 TxRx N001 D
D2 N001 TxRx D
R2 TxRx Rx 100K
D3 Rx 0 D
D4 0 Rx D
XX5 N007 0 N002 N004 piezoelement params: L=0.5m S=1e-4
R3 N007 0 1Meg
V2 N013 0 0
C1 N007 NC_01 1µ V=200 Irms=0 Rser=0 Lser=0
M1 N012 N013 0 0 IRF2805S
C2 N007 0 13p
V3 N005 0 SINE(0 1.5 4.2Meg)
R4 N006 N005 1
R5 0 N006 100Meg
C3 0 N006 10n
C4 N011 0 5p
V4 N008 0 SINE(0 5 100k) AC 1
R6 P001 N008 15
C5 N009 0 700p
C6 N010 P002 100n
R7 P002 N009 10m
R9 N009 0 1k
L1 N011 N010 633n Ipk=4 Rser=0.035 Rpar=1012 Cpar=4p mfg="Würth Elektronik" pn="74279252 WE-CBF 1812"
C7 N009 P001 10n

* block symbol definitions
.subckt piezoelement E+ E- B F
E1 N003 0 N002 E- 1
C0 N001 E- {C0}
R1 N002 E- 1K
C1 N002 E- 1
O1 B i_deform F i_deform Tpzt
F2 E- N002 V2 {h2}
V2 E+ N001 0
V1 i_deform N003 0
F1 E- N001 V1 {h1}
.model Tpzt LTRA(len={L} R={Rt} L={Lt} C={Ct})
.param d=7750; (Kg/m3)
.param Q=75
.param V=4350; (m/s)
.param eS=7.35e-9; (C2/Nm2)
.param e33=15.8; (C/m2)
.param C0=eS*S/L; (F)
.param Lt=d*S; (H)
.param Ct=1/(V**2*Lt); (F)
.param f0=V/(2*L); (Hz)
.param Rt=2*Pi*f0*Lt/Q; (Ohm)
.param h1=e33/eS
.param h2=h1*C0
.params L=435u S=1.267e-4
.ends piezoelement

.subckt substfin b f
O§Load B 0 F 0 Tload
.model Tload LTRA(len={L} R={Rt} L={Lt} C={Ct})
.param d=1000; (Kg/m3)
.param V=1500; (m/s)
.param Nv=1e-3; Viscosity(Pas)
.param Lt=d*S; (H)
.param Ct=1/(V**2*Lt); (F)
.param Af2=8*Pi**2*Nv/(3*d*V**3); (Neper/m/Hz2)
.param At=Af2*F**2; (Neper/m)
.param Rt=2*V*d*S*At; (Ohm)
.params L=10m S=1e-4
.param F=1Meg
.ends substfin

.subckt substinf b
R1 B 0 {Z}
.param d=1000; (Kg/m3)
.param V=1500; (m/s)
.param Z=V*d*S; (Ohm)
.param S=1e-4; (m2)
.ends substinf

.model D D
.lib C:\Users\malte\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\malte\Documents\LTspiceXVII\lib\cmp\standard.mos
* Iron
* Water
;tran 50u
* PZT-5
* Iron
;tran 1u
.ac dec 100 100 100Meg
.backanno
.end
